US08076358B2
Step B: [5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-methanol
3-[1,3]Dioxan-2-yl-benzenethiol (2.57 g, 14.02 mmol), prepared as described in Example 1, Step C, (4,5-difluoro-2-nitro-phenyl)-methanol (2.65 g, 14.02 mmol), and cesium carbonate (9.1 g, 28 mmol) were combined in DMF (100 mL). The resulting mixture was stirred overnight at room temperature. Water was added, and the resulting mixture was then extracted with ethyl acetate. The organic layer was dried with Na2SO4 and filtered, and the solvent was removed to yield an oil, which was purified via silica column chromatography (50% EtOAc/heptane) to yield a solid.

reactant | 3-[1,3]Dioxan-2-yl-benzenethiol | 14.02 mmol, 2.57 g | O1C(OCCC1)C=1C=C(C=CC1)S | C10H12O2S
reactant | (4,5-difluoro-2-nitro-phenyl)-methanol | 14.02 mmol, 2.65 g | FC1=CC(=C(C=C1F)CO)[N+](=O)[O-] | C7H5F2NO3
reactant | cesium carbonate | 28 mmol, 9.1 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | Water | O | H2O
solvent | DMF | 100 mL | CN(C)C=O | C3H7NO
product | [5-(3-[1,3]Dioxan-2-yl-phenylsulfanyl)-4-fluoro-2-nitro-phenyl]-methanol | O1C(OCCC1)C=1C=C(C=CC1)SC=1C(=CC(=C(C1)CO)[N+](=O)[O-])F | C17H16FNO5S
